US08283095B2
In a 300 ml egg plant type flask, 26 g (102 mmol) of pentaerythritol (available from Tokyo Chemical Industry, Co., Ltd.), 54 g (450 mmol) of 3-mercaptobutanoic acid (available from Yodo Chemical Co., Ltd.), 2.6 g (13.5 mmol) of p-toluenesulfonic acid monohydrate (available from Junsei Chemical Co., Ltd.) and 100 g of toluene (available from Junsei Chemical Co., Ltd.) were placed, and a Dean-Stark device and a cooling tube were installed. The contents in the flask were heated at an oil bath temperature of 140° C. with stirring. After 4 hours from the initiation of reaction, the reaction solution was allowed to cool, washed with ion-exchanged water and then neutralized with a saturated sodium hydrogencarbonate aqueous solution. The resulting solution was further washed with ion-exchanged water three times and then subjected to dehydration-drying using anhydrous magnesium sulfate (available from Junsei Chemical Co., Ltd.). Next, toluene was distilled off, and the remainder was subjected to column chromatography by a silica gel to perform purification of PEMB. As the silica gel, Wako Gel C-200 (available from Wako Pure Chemical Industries, Ltd.) was used, and as the elution solvent, n-hexane/acetone (7/1 by volume) was used. The PEMB obtained by purification was a colorless transparent liquid, and the yield was 24.5 g (21%).

reactant | pentaerythritol | 102 mmol, 26 g | OCC(CO)(CO)CO | C5H12O4
reactant | 3-mercaptobutanoic acid | 450 mmol, 54 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 13.5 mmol, 2.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | pentaerythritol tetrakis(3-mercaptobutyrate) | SC(CC(=O)OCC(COC(CC(C)S)=O)(COC(CC(C)S)=O)COC(CC(C)S)=O)C | C21H36O8S4
